### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/PFunctor/Univariate/M.lean [hunk 1]
```diff
@@ -84,18 +84,16 @@ def truncate : ∀ {n : ℕ}, CofixA F (n + 1) → CofixA F n
...
     truncate y = x := by
-  induction n <;> cases x <;> cases y
-  · rfl
-  · -- cases' h with _ _ _ _ _ h₀ h₁
-    cases h
+  induction n with
+  | zero =>
+    cases x
+    cases y
+    rfl
```
Comment (vihdzp) [inline Mathlib/Data/PFunctor/Univariate/M.lean:91]: Can `aesop` solve this?

**Review by vihdzp — APPROVED** [review]
These all seem like improvements to me.

File: Mathlib/Data/PFunctor/Univariate/M.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Data/PFunctor/Univariate/M.lean:91]: Both `aesop` and `grind` fail, sadly.

File: Mathlib/MeasureTheory/Function/AbsolutelyContinuous.lean [hunk 2]
```diff
@@ -173,10 +171,7 @@ theorem const_smul {M : Type*} [SeminormedRing M] [Module M F] [NormSMulClass M
     AbsolutelyContinuousOnInterval (fun x ↦ α • f x) a b := by
   apply squeeze_zero (fun t ↦ ?_) (fun t ↦ ?_) (by simpa using hf.const_mul ‖α‖)
   · exact Finset.sum_nonneg (fun i hi ↦ by positivity)
-  · rw [Finset.mul_sum]
-    gcongr
-    simp only [dist_smul₀]
-    rfl
+  · simp only [Finset.mul_sum, dist_smul₀, le_refl]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/AbsolutelyContinuous.lean]: Is a mere `simp` appreciably slower? If not, can you use that, please?

File: Mathlib/MeasureTheory/Function/AbsolutelyContinuous.lean [hunk 3]
```diff
@@ -201,8 +196,7 @@ theorem uniformlyContinuousOn (hf : AbsolutelyContinuousOnInterval f a b) :
     simp only [disjWithin, Finset.mem_range, preimage_setOf_eq, Nat.lt_one_iff,
       forall_eq, mem_setOf_eq, mem_prod]
     simp
-  · simp only [totalLengthFilter, comap_comap]
-    congr 1
+  · simp only [totalLengthFilter, comap_comap, Function.comp_def]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/AbsolutelyContinuous.lean]: Idem

**Review by grunweg — COMMENTED** [review]
Thanks for this PR; nice work as usual.
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by Ruben-VandeVelde** [comment]
bors merge
